2132-04-29 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2132-4-29**] 02:14 AM
   - CT abd/pelvis:  Small perihepatic free fluid, new from prior study.
   No evidence of obstruction, pneumatosis, or free air. Small bilateral
   pleural effusions with associated atelectasis/consolidation of the
   adjacent lungs.
   - Endocrine says its okay to get IV contrast load with hyperthyroidism
   off of methimazole.
   - Intermittent 500ccLR IV boluses for MAP~55 with CVP<12.
   - GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS [**12-24**]
     GRAM NEGATIVE ROD(S) [**11-23**]
   (appropriate therapy with Flagyl, Zosyn, vancomycin)
   Vanc trough ordered for Tuesday evening
   - TTE:  Hyperdynamic LV systolic dysfunction with an abnormal systolic
   flow contour without LVOT gradient. Mild mitral regurgitation. Mild
   pulmonary artery systolic hypertension
   - Persistent tachycardia (afib), despite coming off of Levophed and
   fluid boluses - sBP>140s - amiodarone bolus and gtt started
   - LIJ CVL placed, position confirmed, RIJ removed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2132-4-28**] 01:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-4-29**] 01:00 AM
   Metronidazole - [**2132-4-29**] 04:00 AM
   Vancomycin - [**2132-4-29**] 06:00 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-4-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-4-28**] 02:18 PM
   Morphine Sulfate - [**2132-4-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-4-29**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 88 (56 - 144) bpm
   BP: 114/55(76) {70/35(62) - 147/78(101)} mmHg
   RR: 19 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (5 - 15)mmHg
   Total In:
                                                                  7,907 mL
                                                                    528 mL
   PO:
   TF:
   IVF:
                                                                  5,907 mL
                                                                    528 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    273 mL
   Urine:
                                                                    450 mL
                                                                    273 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,457 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.40/39/96.[**Numeric Identifier 181**]/23/0
   Physical Examination
   General: Drowsy, waxying and [**Doctor Last Name 533**], responds to verbal stimuli,
   intermittent groaning of pain
   HEENT: Sclera anicteric, MMD, oropharynx clear
   Neck: supple, JVP not elevated, no LAD, right IJ
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Irregular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: obses, soft, mild RUQ tenderness, mildly distended, hypoactive
   bowel sounds, no rebound tenderness or guarding, no organomegaly
   appreciated
   Ext: warm, 1+ pulses, no clubbing, cyanosis or edema, multiple
   ecchymoses
   Labs / Radiology
   248 K/uL
   7.8 g/dL
   162 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   12 mg/dL
   103 mEq/L
   134 mEq/L
   24.1 %
   25.3 K/uL
        [image002.jpg]
                             [**2132-4-23**]  10:02 PM
                             [**2132-4-24**]  03:06 AM
                             [**2132-4-24**]  09:41 AM
                             [**2132-4-24**]  03:49 PM
                             [**2132-4-28**]  05:18 AM
                             [**2132-4-28**]  07:23 AM
                             [**2132-4-28**]  07:42 PM
                             [**2132-4-28**]  08:09 PM
                             [**2132-4-29**]  04:46 AM
                             [**2132-4-29**]  05:14 AM
   WBC
   14.3
   16.5
   16.7
   15.5
   33.3
   32.0
   25.3
   Hct
   30.9
   29.9
   27.7
   27.2
   24.6
   23.8
   24.1
   Plt
   297
   311
   326
   [**Telephone/Fax (3) 8079**]
   248
   Cr
   0.9
   0.9
   0.8
   0.6
   0.6
   0.6
   TCO2
   19
   23
   25
   Glucose
   173
   150
   53
   195
   162
   Other labs: PT / PTT / INR:15.2/25.7/1.3, ALT / AST:51/56, Alk Phos / T
   Bili:410/2.7, Differential-Neuts:96.3 %, Lymph:2.6 %, Mono:1.1 %,
   Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:1.9 g/dL, LDH:378 IU/L,
   Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   CT ABD/PELV:
   Small perihepatic free fluid, new from prior study. No evidence of
   obstruction, pneumatosis, or free air. Small bilateral pleural
   effusions with
   associated atelectasis/consolidation of the adjacent lungs.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 ASTHMA
 ARTHRITIS, RHEUMATOID (RA)
 HYPERTENSION, BENIGN
 ANXIETY
 .H/O CHOLECYSTITIS, CALCULOUS
 NEUROPATHY, PERIPHERAL
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   This is a 74 year old woman with rheumatoid arthritis, asthma,
   hypertension, who presented on [**2132-4-23**] with abdominal pain,
   leukocytosis, bright red blood per rectum now being transferred to the
   ICU for septic shock.
   .
   # Septic Shock: Source most likely GI vs. lung vs. urine vs. line
   infection vs. bilary source in setting of recent transaminitis. Patient
   on chronic steroids and recent proctitis/bowel prep overnight raising
   concern for bowel perferation. KUB limited by motion. Exam limited by
   chronic steroid use. CVP 7, lactate 2.1 --> w/ IVF and levophed,
   decreased UOP.
   - goal directed therapy, IVF bolus to acheive CVP of 12
   - obtain CT abdomen/pelvis to further evaluate for bowel process/perf
   - cover with vanc/zosyn
   - stress dose steroids with hydrocort 100mg IV Q8H
   - f/u blood cultures, send Urine once specimen available, sputum cx if
   possible, and blood cultures from triple lumen
   - maintain MAP>65 w/ levophed
   - repeat ABG, Lactate, SvO2
   - consider resiting of line
   .
   # New Afib - Developed in setting of sepsis. Also known hyperthyroidism
   off methimazole x2 days [**12-24**] concern for obstructive jaundice [**12-24**]
   methimazole.
   - treat w/ IVF as above
   - consider starting nodal [**Doctor Last Name **] once stabilizes, anticoagulation -
   CHADS [**11-23**]
   - continue telemetry
   .
   #. Lower GI Bleeding: HCT has been stable, plan had been for scope
   today. Etiology unclear - possibly rectal fissure, proctitis, colitis,
   diverticular, hemorrhoids.
   - f/u GI recs, will hold off on scope in setting of sepsis
   - maintain active type and cross
   - continue to follow Hct Q12 Hours
   - If bleeding becomes [**Last Name (LF) 4886**], [**First Name3 (LF) **] contact GI and pursue angio vs tagged
   RBC scan; surgery team following pt
   - continue ABX as above for possible colitis
   .
   #. Hyperbilirubinemia / elevated transaminases: No prior history per
   PCP. [**Name10 (NameIs) **] is status-post cholecystectomy. LFTs stably elevated,
   although T. bili continues to improve. Prior to transfer to ICU
   methimazole and azathioprine were discontinued and predisone lowered
   as medications were thought to be playing a role. Diff includes PBC,
   drug induced liver disease (methimazole, AZT, chronic prednisone),
   autoimmune hepatitis, congestive hepatitis (given cardiomegaly, SOB,
   recent CP), PSC.
   - f/u GI evaluation, consider liver consult once sepsis resolved
   - Consider MRCP to evaluate intrinsic liver disease and assessment of
   pancreas and biliary tree
   - f/u AMA, [**Doctor First Name **], hepatitis serology, Anti-DS DNA
   .
   # Hyperthyroidism
 Off methimazole x2 days [**12-24**] concern for
   transaminitis
   - discuss with endocrine possibility for further treatment, risk of
   planned contrast load
   #. [**Female First Name (un) 1354**] Esophagitis likely due to chronic prednisone
   - Treating with fluconazole, switch to IV in setting of current sepsis,
   plan for 10 day course from [**2132-4-24**]
   .
   #. Hyponatremia: Chronic, unclear etiology
   - cont to monitor for now
   .
   #. Asthma: Appears well controlled
   - inhalers
   - on corticosteroids for RA
   .
   #. Hypertension: Normally on Metoprolol and Lisinopril.
   - hold in setting of hypotension
   .
   #. Anxiety/depression: On Xanax at home. Appeared very anxious on day
   prior to transfer per floor team.
   - social work consult
   - consider prn benzos
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-4-28**] 07:17 AM
   Multi Lumen - [**2132-4-29**] 02:14 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-04-30 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - DNR/DNI as d/w husband
   - [**Name (NI) 1490**] metoprolol 5mg IV, chased with po metoprolol which was
   gradually uptitrated to 25mg tid for more optimal rate control with
   fewer episodes of Afib with RVR.
   - MVO2 63
   - Blood cx grew out MRSA; vanc held given supratherapeutic trough.
   - Decreased hydrocort to 75mg IV tid
   - Overnight, given Lasix 10mg IV x 1 as noted to have increased cough,
   rales on exam, SBP in 150s, O2sat 98-100% on 2L, and lower urine output
   but 94-95 on 1L with good diuresis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-4-29**] 06:00 AM
   Fluconazole - [**2132-4-29**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-4-30**] 12:48 AM
   Metronidazole - [**2132-4-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2132-4-29**] 10:40 AM
   Pantoprazole (Protonix) - [**2132-4-29**] 07:58 PM
   Heparin Sodium (Prophylaxis) - [**2132-4-29**] 10:56 PM
   Furosemide (Lasix) - [**2132-4-30**] 03:00 AM
   Morphine Sulfate - [**2132-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-4-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 64 (56 - 143) bpm
   BP: 119/78(96) {111/67(85) - 164/132(141)} mmHg
   RR: 30 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (9 - 31)mmHg
   Total In:
                                                                  1,879 mL
                                                                    340 mL
   PO:
                                                                     30 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  1,849 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    687 mL
                                                                  1,050 mL
   Urine:
                                                                    687 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,192 mL
                                                                   -710 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/34/128/23/-1
   Physical Examination
   General: Drowsy, waxying and [**Doctor Last Name 533**], responds to verbal stimuli,
   intermittent groaning of pain
   HEENT: Sclera anicteric, MMD, oropharynx clear
   Neck: supple, JVP not elevated, no LAD, right IJ
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Irregular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: obses, soft, mild RUQ tenderness, mildly distended, hypoactive
   bowel sounds, no rebound tenderness or guarding, no organomegaly
   appreciated
   Ext: warm, 1+ pulses, no clubbing, cyanosis or edema, multiple
   ecchymoses
   Labs / Radiology
   271 K/uL
   8.1 g/dL
   198 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   135 mEq/L
   24.8 %
   19.1 K/uL
        [image002.jpg]
                             [**2132-4-24**]  03:49 PM
                             [**2132-4-28**]  05:18 AM
                             [**2132-4-28**]  07:23 AM
                             [**2132-4-28**]  07:42 PM
                             [**2132-4-28**]  08:09 PM
                             [**2132-4-29**]  04:46 AM
                             [**2132-4-29**]  05:14 AM
                             [**2132-4-29**]  05:15 PM
                             [**2132-4-29**]  05:21 PM
                             [**2132-4-30**]  04:51 AM
   WBC
   15.5
   33.3
   32.0
   25.3
   19.1
   Hct
   27.2
   24.6
   23.8
   24.1
   24.9
   24.8
   Plt
   [**Telephone/Fax (3) 8098**]48
   271
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   19
   23
   25
   23
   Glucose
   53
   195
   162
   198
   Other labs: PT / PTT / INR:15.2/25.7/1.3, ALT / AST:51/56, Alk Phos / T
   Bili:410/2.7, Differential-Neuts:96.3 %, Lymph:2.6 %, Mono:1.1 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:1.9 g/dL, LDH:378 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Anti-mitochondrial Ab neg, Anti-smooth muscle Ab neg, [**Doctor First Name **] neg, dsDNA
   neg
   HBsAg neg, HBsAb borderline, HBcAb neg
   SPEP: HYPOGAMMAGLOBULINEMIA BASED ON IFE (SEE SEPARATE REPORT), NO
   MONOCLONAL IMMUNOGLOBULIN SEEN NEGATIVE FOR BENCE-[**Doctor Last Name **] PROTEIN.
   Assessment and Plan
   This is a 74 year old woman with rheumatoid arthritis, asthma,
   hypertension, who presented on [**2132-4-23**] with abdominal pain,
   leukocytosis, bright red blood per rectum now being transferred to the
   ICU for septic shock.
   .
   # Septic Shock: Thought source most likely GI with concern for
   bacterial translocation. CVPand lactate improved today. MRSA bacteremia
   today however ?from line placed in ED.
   - cover with vanc/zosyn
 check vanc trough prior to PM dose. D/C
   flagyl.
   - TTE to assess for endocarditis
   - Place PICC for long-term abx treatment
   - Goal directed therapy, IVF bolus to acheive CVP of 12
   - Was started on stress dose steroids as was on chronic prednisone for
   RA. Will change back to home regimen today.
   - f/u cx sensitivities
   - maintain MAP>65
   .
   # New Afib - Developed in setting of sepsis. Also known hyperthyroidism
   off methimazole x2 days [**12-24**] concern for obstructive jaundice [**12-24**]
   methimazole.
   - Metop 5mg IV x 1, start on metop 25mg [**Hospital1 **] and uptitrate prn; consider
   amio or dig bolus if not responsive to metoprolol
   - Anticoagulation - CHADS [**11-23**]
   - Continue telemetry
   .
   #. Lower GI Bleeding: HCT has been stable.
   - f/u GI recs, will hold off on scope for now in setting of sepsis
   - maintain active type and cross
   - continue to follow Hct Q24 Hours
   - If bleeding becomes [**Last Name (LF) 4886**], [**First Name3 (LF) **] contact GI and pursue angio vs tagged
   RBC scan; surgery team following pt
   - continue ABX as above for possible colitis
   .
   #. Hyperbilirubinemia / elevated transaminases: No prior history per
   PCP. [**Name10 (NameIs) **] is status-post cholecystectomy. LFTs slowly improving;
   negative Ab for autoimmune hepatitis, PSC, and viral hepatitis. Ddx
   includes drug induced liver disease (methimazole and AZT
 recently
   discontinued, chronic prednisone
 recently lowered) or, congestive
   hepatitis
   - Trend LFTs
   - f/u GI recs, consider liver consult once sepsis resolved if persists
   - Consider MRCP to evaluate intrinsic liver disease and assessment of
   pancreas and biliary tree
   - Restart methimazole when more stable
   .
   # Hyperthyroidism: Off methimazole x2 days [**12-24**] concern for
   transaminitis
   - discuss with endocrine possibility for further treatment, risk of
   planned contrast load
   .
   #. [**Female First Name (un) 1354**] Esophagitis: likely due to chronic prednisone
   - Treating with fluconazole, change to PO today plan for 10 day course
   from [**2132-4-24**]
   .
   #. Hyponatremia: Chronic, unclear etiology
   - cont to monitor for now
   .
   #. Asthma: Appears well controlled
   - inhalers
   - on corticosteroids chronically for RA
   - Switch back to prednisone 5 [**Hospital1 7**]
   .
   #. Hypertension: Normally on Metoprolol and Lisinopril.
   - restarting metoprolol and consider lisinopril if necessary
   .
   #. Anxiety/depression: On Xanax at home. Appeared very anxious on day
   prior to transfer per floor team.
   - social work consult
   - consider prn benzo
   ICU Care
   Nutrition: Clears->ADAT
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-4-28**] 07:17 AM
   Multi Lumen - [**2132-4-29**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Call out today